US04560692
(a) 1-[6-Fluoro-2-phenyl-4-quinolinyl]-4-piperidinecarboxylic acid ethyl ester
A mixture of 9.0 g of 4-chloro-6-fluoro-2-phenylquinoline prepared according to the procedure described in example 9(b) and 18 ml of ethyl isonipecotate was stirred and heated in an oil bath at 160°-165° for 2 hr. It was then cooled and diluted with water. Addition of ethanol caused a solid to form which was collected to give 7.2 g of product as white prisms, mp 120°-124°.

reactant | 4-chloro-6-fluoro-2-phenylquinoline | 9.0 g | ClC1=CC(=NC2=CC=C(C=C12)F)C1=CC=CC=C1 | C15H9ClFN
reactant | ethyl isonipecotate | 18 ml | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[6-Fluoro-2-phenyl-4-quinolinyl]-4-piperidinecarboxylic acid ethyl ester | 7.2 g | C(C)OC(=O)C1CCN(CC1)C1=CC(=NC2=CC=C(C=C12)F)C1=CC=CC=C1 | C23H23FN2O2
